US05654472
Synthesis of 1,3-diisobutyryloxyacetone
A 100 ml reaction vessel was charged with 4.18 g of dihydroxyacetone (monomer), 11.2 ml of pyridine and 10 mg of 4-dimethylaminopyridine and the mixture was stirred at room temperature. Thereto was added dropwise 16.7 ml of isobutyric anhydride over 30 minutes. After the dropping, the resulting liquid was further stirred for 1 hour and then 1 ml of methanol was added thereto and the resulting liquid was further stirred for 1 hour. To the reaction mixture was added ethyl acetate and the organic layer was separated. The organic layer was washed with water and further washed with saturated aqueous solution with sodium bicarbonate and 1N HCl. Then, the solvent was removed under reduced pressure. The residue was distilled under reduced pressure to give 7.47 g of the desired compound.

reactant | dihydroxyacetone | 4.18 g | OC(C(C)=O)O | C3H6O3
reactant | pyridine | 11.2 ml | N1=CC=CC=C1 | C5H5N
reactant | isobutyric anhydride | 16.7 ml | C(C(C)C)(=O)OC(C(C)C)=O | C8H14O3
reactant | methanol | 1 ml | CO | CH4O
catalyst | 4-dimethylaminopyridine | 10 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1,3-diisobutyryloxyacetone | 7.47 g | C(C(C)C)(=O)OCC(=O)COC(C(C)C)=O | C11H18O5
